US07601844B2
Step 1: Ethyl 2-(3-((R)-1-((S)-4-(4-Chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamoyl)benzamido)acetate
(R)-3-(1-(4-(4-Chlorophenyl)-4-hydroxypiperidin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamoyl)benzoic acid (30.5 mg, 0.06 mmol)), chloroform (1 mL), HOBT (9 mg, 0.06 mmol), EDC (20 mg, 0.13 mmol), ethylamino acetate hydrochloride, and DIPEA (32 mg, 0.25 mmol) was stirred at rt for 18 h. The product was purified directly via preparative reverse-phase HPLC.

reactant | (R)-3-(1-(4-(4-Chlorophenyl)-4-hydroxypiperidin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamoyl)benzoic acid | 0.06 mmol, 30.5 mg | ClC1=CC=C(C=C1)C1(CCN(CC1)C([C@@H](C(C)C)NC(=O)C=1C=C(C(=O)O)C=CC1)=O)O | C24H27ClN2O5
reactant | HOBT | 0.06 mmol, 9 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.13 mmol, 20 mg
reactant | ethylamino acetate hydrochloride | Cl.C(C)(=O)ONCC
reactant | DIPEA | 0.25 mmol, 32 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 2-(3-((R)-1-((S)-4-(4-Chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamoyl)benzamido)acetate | ClC1=CC=C(C=C1)[C@@]1(C(CN(CC1)C([C@@H](C(C)C)NC(=O)C=1C=C(C(=O)NCC(=O)OCC)C=CC1)=O)(C)C)O | C30H38ClN3O6
